Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pravastatin / simvastatin / Livalo / mirtazapine / nicotine
 
Attending: ___.
 
Chief Complaint:
ampullary mass
 
Major Surgical or Invasive Procedure:
ercp see result section
 
History of Present Illness:
___ yo female with a history of CAD s/p stent in ___, EtOH 
cirrhosis, with recent hyperbilirubinemia who was found to have 
ampullary mass concerning for malignancy who presents for 
EUS-FNA and further evaluation. She is known to 
ERCP team and Pancreatic ___ clinic. She was 
asymptomatic on this admission, underwent EUS-FNA on ___.  The 
results of the ampullary biopsy did not show malignancy or 
adenoma.  

She now is readmitted in order for the ERCP physician to  
perform ERCP with sphincterotomy to take deep biopsies from the 
ampulla.  She is admitted the night before planned ERCP as she 
has coagulopathy, thrombocytopenia due to cirrhosis and may need 
blood products in advance of the procedure.

ROS: since discharge home she experienced approx 6 lb weight 
loss despite good appetite, +fatigue, increased jaundice, no 
itching, no steatorrhea, ++ night sweats, no fevers, 
intermittent mild RUQ twinge of pain, mid upper back pain 
relieved with massage, bruise on L shin after a coffee pot was 
dropped on her shin.  otherwise 13pt ROS is negative as above.
 
Past Medical History:
EtOH cirrhosis; per patient no varices on EGD
-- Followed by GI at ___: Dr. ___ s/p stent placement in ___
-- followed by Cardiology: Dr. ___ at ___
Thyroid nodule
Urinary incontinence
Migraine
#Ampullary abnormality
 
Social History:
___
Family History:
No history of malignancy in 1st degree family relatives

 
Physical Exam:
118/62 HR 59
jaundice
scleral icterus
non toxic not confused fluent speech
pink oral mucosa that is moist
no focal tenderness along back or in para-spinal muscles
regular s1 and s2
clear lung sounds
no focal RUQ tenderness, no palpable splenomegaly
small bruise L anterior shin
no ___ edema as she was wearing compression stalkings

 
Pertinent Results:
past labs and ercp/eus reports reviewed
___ 07:15AM BLOOD WBC-2.9* RBC-2.82* Hgb-10.3* Hct-29.6* 
MCV-105* MCH-36.4* MCHC-34.7 RDW-13.7 Plt Ct-58*
___ 06:11AM BLOOD WBC-3.6* RBC-2.90* Hgb-11.0* Hct-30.2* 
MCV-104* MCH-37.8* MCHC-36.4* RDW-13.6 Plt Ct-49*
___ 07:15AM BLOOD Plt Ct-58*
___ 07:15AM BLOOD ___
___ 07:15AM BLOOD Glucose-85 UreaN-8 Creat-0.4 Na-138 K-3.7 
Cl-102 HCO3-31 AnGap-9
___ 07:15AM BLOOD ALT-41* AST-87* AlkPhos-79 TotBili-7.7*
___ 04:55PM BLOOD Albumin-3.6 Calcium-8.7 Phos-3.6 Mg-1.5*
___ 08:05PM BLOOD Lipase-81*

ERCP
The scout film showed a plastic stent in place. 
After the stent was pulled, the bile duct was deeply cannulated 
with the sphincterotome. 
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree. 
Once again there was an intra-ampullary stricture 1 cm in 
length. 
There was proximal dilation with the CBD 15 mm in diameter. 
Several small filling defects consistent with stones were 
identified in the distal CBD. 
The left and right hepatic ducts and all intrahepatic branches 
were normal. 
A biliary sphincterotomy was made with a sphincterotome. There 
was no post-sphincterotomy bleeding, but revealed a fleshy 
intra-ampullary component, concerning for a neoplasm. 
The biliary tree was swept with a balloon starting at the 
bifurcation. 
Several small stones were removed. The CBD and CHD were swept 
repeatedly until no further stones were seen. 
Brushings were taken of the intra-ampullary stricture and sent 
for cytology. 
Cold forceps biopsies were performed for histology at the fleshy 
intra-ampullary component.  
The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD. 
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically.  
Overall, successful ERCP with sphincterotomy demonstrating 
fleshy intra-ampullary component with associated intra-ampullary 
stricture concerning for neoplasm.  Cytology and biopsies taken.
 
Recommendations: NPO overnight with IV hydration with LR (and/or 
albumin infusions if needed). 
No aspirin, Plavix, NSAIDS, Coumadin for 5 days. 
Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days. 
Follow up with cytology and pathology reports. Further 
management will depend on results. Patient will be notified when 
cytology/pathology results become available. 
Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___ 
Follow-up with Dr. ___ Dr. ___ as previously scheduled.
 

 
Brief Hospital Course:
___ yo female with a history of CAD s/p stent in ___, EtOH 
cirrhosis, with recent hyperbilirubinemia who was found to have 
ampullary mass concerning for malignancy who returns for repeat 
ERCP with planned sphincterotomy and deep biopsy to reach a 
tissue diagnosis in evaluation of suspected 
malignancy/cholangiocarcinoma.

#Biliary obstruction/possible ampullary malignancy.

On ___ she received 2 units FFP and 1 unit platelet for 
cirrhosis related coagulopathy and platlets prior to her ERCP 
with sphincterotomy that
demonstrating fleshy intra-ampullary component with associated 
intra-ampullary stricture concerning for neoplasm (  Cytology 
and biopsies).  Following procedure she had abdominal pain, but 
lipase was only 80 so acute pancreatitis was not suspected and 
the day of discharge she had minimal pain and tolerated regular 
diet.

GI was not suprised to see AST and T bili slightly higher and 
are not worried about residual obstruction or complications.  
She understands to be on the look out for abdominal pain and 
signs of bleeding.  She will take oxycodone prn for a few days 
for any residual pain.  She will take cipro for 5 days on 
discharge to prophylaxis of infection and manual measurement of 
qtc did not show prolonged qtc.

# EtOH cirrhosis. Evidence of coagulopathy on labs (INR 1.9), 
thrombocytopenia, and abnormal LFTs c/w known cirrhosis. Follows 
with an outpatient hepatologist. No e/o hepatic encephalopathy 
on exam. Continue home thiamine, rifaximin, 
spironolactone, propranolol, bumex held in hospital for BPs near 
100/50 and because she was NPO but will be restarted on 
discharge.

CHRONIC MEDICAL PROBLEMS:
# CAD s/p stent: Patient not on statin due to allergies, and 
does not appear to be on aspirin. patient explained that her 
usual providers/ardiologist aware that she is off of aspirin as 
she has thrombocytopenia/coagulopathy

# Anxiety/depression: clonazepam 1mg qhs.
# EMERGENCY CONTACT HCP: husband ___, ___ 
>35 min on discharge

TRANSITIONAL ISSUES
[]PATH RESULTS FROM AMPULLARY BIOPSY AND CYTOLOGY FROM BILIARY 
BRUSHINGS
[]REPEAT LFTS
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bumetanide 0.5 mg PO DAILY 
2. ClonazePAM 1 mg PO QHS anxiety/insomnia 
3. FoLIC Acid 1 mg PO DAILY 
4. Nicotine Patch 14 mg TD DAILY 
5. Propranolol 10 mg PO BID 
6. Rifaximin 550 mg PO BID 
7. Spironolactone 25 mg PO BID 
8. Thiamine 100 mg PO DAILY 
9. Tolterodine 2 mg PO BID 
10. Vitamin D 1000 UNIT PO DAILY 
11. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
12. Ondansetron 4 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. ClonazePAM 1 mg PO QHS anxiety/insomnia 
2. FoLIC Acid 1 mg PO DAILY 
3. Nicotine Patch 14 mg TD DAILY 
4. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. Propranolol 10 mg PO BID 
7. Rifaximin 550 mg PO BID 
8. Spironolactone 25 mg PO BID 
9. Thiamine 100 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*10 Tablet Refills:*0
12. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0
13. Bumetanide 0.5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ampullary mass
biliary obstruction
choledocolithiasis with obstruction 
cirrhosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized for biopsy of the ampulla, sphincterotomy 
and removal of biliary stent

there is chance that biopsy will reveal cancer so the results 
are very important.

we reviewed signs of worse liver disease, bleeding 
complications.
you need f/u with pcp and your liver specialist and repeat lfts 
in a few days
 
Followup Instructions:
___